Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt is a ___ with history of ADHD and social anxiety disorder 
who presented from OSH after altered mental status concerning 
for nonconvulsive status epilepticus. Hx obtained from mother 
and pt at bedside.

Pt initially presented to ___ on ___ after single car 
MVC in which he hit a tree with small right temporal tramatic 
SAH seen on ___. Tox screen positive for amphetamines but 
patient is on adderrall as outpatient. Initial head CT and 
trauma work up were negative and he was sent home.  He then 
represented to ___ later that evening because his mother noted 
he was not acting himself. He did drink alcohol after leaving ___ 
earlier that day, and etoh level on re-presentation to ___ was 
47.  He had a head CT which showed a new punctate hemorrhage in 
right medial temporal lobe measuring 5 mm, likely subarachnoid 
blood. After NSGY eval and stable repeat ___, he was started 
on keppra 500mg po bid, and was sent home.  On ___, patient was 
on his way out to dinner with his mom when he fell asleep in car 
and was difficult to arouse. He was brought to ___ 
w/ tox screen positive for THC (pt reports eating MJ edibles 
earlier that day); he was given Narcan with minimal improvement 
in symptoms.  Mother reports he had stopped taking keppra at 
home.  He also had a supply of Ativan prescribed to him in 
___ that his mother
found, unclear if he has been taking for anxiety (he states he 
has not been taking for 1.5 weeks). F/u head CT which showed 
resolution of punctate hemorrhage. During hospitalization, he 
became agitated and received Haldol and Ativan, subsequently 
being admitted to ICU. Due to continued somnolence and
disorientation, he was transferred to ___ for continued work 
up of encephalopathy, specifically r/o NCSE. 

Of note, pt developed recent urinary retention for which he is 
being intermittently straight cathed. He has also been trying 
___ herbal supplements recently to treat anxiety issues 
following his car accident (see med list below). 

 
Past Medical History:
- ADHD
- anxiety
- MCV ___ with 5mm R medial temporal lobe hemorrhage likely
- tSAH

Medications:
keppra 500mg po BID
homeopathic regimen including Phenibut, HYL pill, Ashwagandha

Allergies:      
___
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM: 
========================

Vitals: T: 98.3 HR: 51 BP: 134/67 RR: 15 O2: 96% RA
General: NAD, Caucasian male comfortable in bed 
HEENT: NCAT, neck supple, nontender
CV: RRR, normal S1 and S2 
Lungs: CTAB 
Abdomen: Soft, nontender, nondistended
GU: Deferred 
Ext: WWP 

Neuro:  
MS-Awake, alert, oriented to person, place, time, and situation.
Able to recall history. Attentive w/ ability to name ___. 
Speech
fluent, intact comprehension and repetition. Naming intact.
Interacts well, able to answer questions and follow commands.
CN-PERRL 5->3mm. EOMI, endgaze horizontal nystagmus. Facies
symmetric. Intact to LT over facies b/l. Tongue midline. 
Sensory/Motor-Asterixis present. ? L pronator drift. Strength
full throughout UEs and LEs. Intact to LT b/l. 
Coordination-No dysmetria on FNF b/l. 

===============
DISCHARGE EXAM: 
===============
Vitals: 98.4 97.9 50-55 ___ 18 95-97% RA 
General: NAD, lying comfortably in bed. EEG leads in place

Neuro:  
MS-Awake, alert, oriented to person, place, time, situation, and 
president. Able to recall history. Attentive w/ ability to name 
___ and serial 7s. Speech fluent, intact comprehension and 
repetition. Can demonstrate appropriately how to brush teeth. 
Interacts well, able to answer questions and follow commands.

CN-PERRL 3->1mm. EOMI without nystagmus. Face symmetric at rest 
and with activation. Intact to LT over V1, V2, and V3 
distributions b/l. Tongue midline. 

Sensory/Motor: No Asterixis or pronator drift. Strength full 
throughout UEs and LEs. Intact to LT b/l. 

Reflexes: symmetric bilaterally. ___ throughout. 

Coordination-No dysmetria on FNF b/l. 

 
Pertinent Results:
___ 04:50AM BLOOD WBC-7.7 RBC-4.99 Hgb-15.3 Hct-45.5 MCV-91 
MCH-30.7 MCHC-33.6 RDW-12.5 RDWSD-41.1 Plt ___

___ 04:50AM BLOOD Glucose-82 UreaN-10 Creat-0.8 Na-140 
K-3.9 Cl-104 HCO3-27 AnGap-13

___ 04:50AM BLOOD Calcium-9.3 Phos-4.0 Mg-2.1

___ 05:43PM BLOOD ALT-41* AST-28 LD(LDH)-136 CK(CPK)-328* 
AlkPhos-59 TotBili-0.3

___ 05:43PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

========
IMAGING:
========
CXR (___): Normal heart size, pulmonary vascularity.  No 
edema.  Lungs are clear.  No effusion.  No pneumothorax. 
  
IMPRESSION: Normal chest 

EEG (___): 
This is an abnormal continuous EMU monitoring study because of: 
(1) Intermittent polymorphic delta activity within bilateral 
posterior 
quadrant (R>L), indicative of focal cerebral dysfunction
(2) Occasional burst of occipital intermittent rhythmic delta 
activity (OIRDA), which in his age group can be seen in diffuse 
etiologically nonspecific encephalopathy, increased intracranial 
pressure or deep midline structural lesion. 

There are no intentional pushbutton activations. There are no 
electrographic seizures or epileptiform discharges. 

EEG (___): pending at time of discharge

 
Brief Hospital Course:
Mr. ___ was transferred directly into the Neuro-ICU. He was 
hemodynamically and neurologically stable. Out of concern for 
possible seizures, he was started on Dilantin (100 mg BID). He 
was started on cvEEG monitoring which did not show any evidence 
of status epilepticus or any seizures, so he was transferred to 
the general neurology floor service. 

The preliminary results of the EEG suggest slowing of the brain 
waves in the right posterior portion of the brain. There were no 
seizures or epileptiform discharges captured during the test. 

Because of the slowing found in the EEG, we recommended that he 
undergoes an MRI of the brain (with and without contrast) as an 
outpatient to assess for conditions that can cause seizures or 
slowing. The MRI does not need to occur inpatient as his 
neurological exam is normal and nonfocal. We also would like him 
to follow up with a neurologist as an outpatient. 

Ultimately, we do not know definitively whether or not he had 
seizures, so we recommended stopping phenytoin. 

Another possible cause for his symptoms is drug use, as he uses 
marijuana daily and takes PRN Ativan. We recommended that he 
seek out counseling for assistance with stopping his drug use. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amphetamine-Dextroamphetamine 10 mg PO TID ADHD 
2. LORazepam 0.5-1 mg PO Q8H:PRN Anxiety 

 
Discharge Medications:
1. LORazepam 0.5-1 mg PO Q8H:PRN Anxiety  
2. HELD- Amphetamine-Dextroamphetamine 10 mg PO TID ADHD  This 
medication was held. Do not restart 
Amphetamine-Dextroamphetamine until instructed to do so by your 
PCP or outpatient neurologist (due to post-concussive state)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
altered consciousness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the ___ neurology service after being 
transferred from ___. 

Because of your unexplained car accident 2 weeks ago and your 
episode of somnolence, slow heart rate, and slow breathing rate 
at the other hospital followed by agitation, the team was 
worried about possible seizures. You were started on an 
anti-seizure medication called phenytoin (Dilantin). You were 
monitored with a brain wave test called EEG 
(electroencephalogram). The results of the EEG are preliminary 
at this time, but suggest slowing of the brain waves in the 
right posterior portion of the brain. There were no seizures or 
epileptiform discharges captured during the test. 

Because of the slowing found in the EEG, we recommend that you 
undergo an MRI of the brain (with and without contrast) to 
assess for conditions that can cause seizures or slowing. We 
also would like you to follow up with a neurologist as an 
outpatient. We have both of these appointments for you. 

We do not know for sure if you had seizures, so we recommend 
stopping anti-seizure medications. 

Another possible cause for your symptoms is a concussion that 
you sustained during your car accident. This can cause you to 
have emotional lability and irritability (which you endorse 
since the accident). We also worry about your drug use. We 
strongly recommend avoidance of mind-altering drugs. 

It was a pleasure caring for you in the hospital. 

Best wishes, 

The ___ Neurology Team
 
Followup Instructions:
___